US05401774
A mixture of 2.88 g. (0.02 mole) of 3,4-difluorobenzaldehyde, 3.24 g. (0.025 mole) of propionic anhydride and 0.92 g. (0.02 mole) of sodium propionate under nitrogen is heated at 135° with a magnetic stirrer for 20 hours. The reaction mixture is poured onto 50 ml. of water. A solid precipitates that dissolves when 50 ml. of saturated K2CO3 is added with stirring. The basic solution is extracted with ether (2×100 ml.). The aqueous phase is then poured into an excess of concentrated HCl and ice. The precipitated white solid is filtered and dried to give 3,4-difluoro-α-methylcinnamic acid, M.P. 122°-125°.

reactant | 3,4-difluorobenzaldehyde | 0.02 mole | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | propionic anhydride | 0.025 mole | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | sodium propionate | 0.02 mole | C(CC)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 3,4-difluoro-α-methylcinnamic acid | FC=1C=C(C=C(C(=O)O)C)C=CC1F | C10H8F2O2
